US08071584B2
4-Bromo-2-(cyclopropylmethyl)thiophene
(4-bromo-2-thienyl)(cyclopropyl)methanone (1.02 g, 4.4 mmol) was diluted in ethylene glycol (3.75 mL). Potassium hydroxide (809 mg, 14.4 mmol, 3.3 eq) and hydrazine hydrate (0.58 mL, 18 mmol, 4.2 eq) were added, and the reaction mixture was heated at 160° C. for 45 minutes behind a blast shield. The reaction was cooled to room temperature, water was added, and the pH adjusted to acidic (by pH paper) with 6M aqueous HCl. The mixture was extracted with dichloromethane, the combined organics dried over sodium sulfate, filtered, and concentrated. The crude product was purified by isco combiflash, eluting with 0-10% ethyl acetate in hexanes. The title compound was obtained as clear colorless oil (50 mg, 5%).

reactant | (4-bromo-2-thienyl)(cyclopropyl)methanone | 4.4 mmol, 1.02 g | BrC=1C=C(SC1)C(=O)C1CC1 | C8H7BrOS
reactant | Potassium hydroxide | 14.4 mmol, 809 mg, 3.3 eq | [OH-].[K+]
reactant | hydrazine hydrate | 18 mmol, 0.58 mL, 4.2 eq | O.NN
reactant | HCl | 6M | Cl | ClH
solvent | ethylene glycol | 3.75 mL | C(CO)O | C2H6O2
solvent | water | O | H2O
product | 4-Bromo-2-(cyclopropylmethyl)thiophene | BrC=1C=C(SC1)CC1CC1 | C8H9BrS
